US06358928B1
Boc-ValCH2OH:
To 5 g (0.023 mol) of Boc-Valine dissolved in THF (30 mL) at −10° C. under N2 are added NMM (2.5 mL 0.023 mol) and IBCF (3 mL, 0.023 mol). The reaction mixture is stirred 15 minutes and filtered. The filtrate is added slowly to an ice-cold solution of NaBH4 (2.3 g, 0.061 mol) in H2O (10 mL) and stirred 1 hour at ice-bath temperature then 1 hour at room temperature. The reaction mixture is cooled to 0° C. and treated with saturated NaHCO3 solution, extracted with EtOAc, washed with 1M HCl saturated with NaHCO3, dried over anhydrous MgSO4, and evaporated to dryness. The crude Boc-ValCH2OH product is purified over a silica gel column eluted with 95:5 EtOAc/MeOH.

reactant | Boc-Valine | 0.023 mol, 5 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | NMM | 0.023 mol, 2.5 mL | CN1CCOCC1 | C5H11NO
reactant | NaBH4 | 0.061 mol, 2.3 g | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | Boc-ValCH2OH | N([C@@H](C(C)C)CO)C(=O)OC(C)(C)C | C10H21NO3
